Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: CARDIOTHORACIC
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Asymptomatic
 
Major Surgical or Invasive Procedure:
___ - Mitral valve repair with resection of the middle 
scallop of the posterior leaflet (P2) and a mitral valve 
annuloplasty with a 32 ___ annuloplasty band.

 
History of Present Illness:
Mr. ___ is a ___ year old man with history of mitral 
regurgitation followed with serial echocardiograms since ___. 
His last several echocardiograms revealed moderate to severe 
mitral regurgitation with bi-leaflet prolapse. Left ventricular 
function remained normal with left ventricular cavity size top
normal/borderline dilated. A Cardiac MRI in ___ 
demonstrated partial posterior leaflet flail, dilated left 
ventricular cavity size ___ 6.7cm), normal systolic function, 
and moderately reduced forward effective LVEF. His most recent 
echocardiogram on ___ demonstrated moderate to severe 
mitral regurgitation and moderate to severe bi-leaflet mitral 
valve prolapse. Given the slight increase in his left 
ventricular cavity size, he was referred to Dr. ___ 
surgical consultation. He is very active at baseline. He plays 
tennis twice a week, golfs once a week, and walks regularly. He 
has denied any changes in his exercise tolerance. He did not an 
episode of dizziness last week. He otherwise denied syncope, 
lightheadedness, shortness of breath at rest, dyspnea on 
exertion, chest pain, palpitations, orthopnea, paroxysmal 
nocturnal dyspnea, or lower extremity edema.
 
Past Medical History:
Cluster Headaches
Melanoma s/p resection on thigh
Mitral Regurgitation
Nephrolithiasis s/p lithotripsy 

Surgical History:
Hemorrhoidectomy
 
Social History:
___
Family History:
Father - died of failure to thrive at age ___
Mother - died of pancreatic cancer
Brother - ___ cancer
 
Physical Exam:
PREOPERATIVE EXAM
Vitals : HR 49/min, BP 123/80mmHg O2 Sat 98 %.
Height: 68"  Weight: 162 lbs 

General: Pleasant man, WDWN, appears younger than stated age, 
NAD
Skin: Warm, dry, intact
HEENT: NCAT, PERRL, EOMI, OP benign 
Neck:  Supple, full ROM
Chest: Lungs clear bilaterally 
Heart: Regular rate and rhythm, III/VI holosystolic murmur 
radiating to apex 
Abdomen: Normal BS, soft, non-tender, non-distended 
Extremities: Warm, well-perfused, no edema
Varicosities: None 
Neuro: Grossly intact 
Pulses:
DP           Right: 2+  Left: 2+
___           Right: 2+  Left: 2+
Radial       Right: 2+  Left: 2+
Carotid Bruit: transmitted murmur
.
DISCHARGE EXAM
98.3
PO 94 / 62
R Sitting 69 18 95 Ra 
.
General: NAD [x]  
Neurological: A/O x3 [x] non-focal [x] 
HEENT:  PEERL [x] 
Cardiovascular: RRR [x]  Irregular []  Murmur [] Rub [] 
Respiratory: CTA [x]  No resp distress [x] tiny + airleak
GI/Abdomen: Bowel sounds present [x] Soft [x] ND [x] NT [x]
Extremities: 
Right Upper extremity   Warm [x] trace Edema  
Left Upper extremity    Warm [x]  trace Edema 
Right Lower extremity   Warm [x]  trace Edema 
Left Lower extremity    Warm [x]  trace Edema 
Pulses:
DP             Right:  2+     Left: 2+
___             Right:  2+     Left: 2+
Radial         Right:  2+     Left: 2+
Skin/Wounds: Dry [x] intact [x]
Sternal: CDI [x] no erythema or drainage [x]
Sternum stable [] Prevena []
Lower extremity: Right [x] Left []  CDI [x]
Upper extremity: Right [] Left []  CDI []

 
Pertinent Results:
.
Transesophageal Echocardiogram ___
PRE-OPERATIVE STATE: Pre-bypass assessment. Sinus rhythm.
Left Atrium ___ Veins: Dilated ___. No spontaneous 
echo contrast or thrombus in the ___.
Right Atrium (RA)/Interatrial Septum/Inferior Vena Cava (IVC): 
Dilated RA. No spontaneous echo contrast or thrombus is seen in 
the RA/RA appendage. Normal interatrial septum. No atrial septal 
defect by 2D/color flow Doppler.
Left Ventricle (LV): Normal cavity size. Mild-moderate global 
hypokinesis. Mildly depressed ejection fraction.
Right Ventricle (RV): Moderate global hypokinesis.
Aorta: Normal ascending diameter. Normal descending aorta 
diameter. No dissection. Simple atheroma of ascending aorta. 
Simple arch atheroma. Simple descending atheroma.
Aortic Valve: Mildly thickened (3) leaflets. Mild leaflet 
calcification. No stenosis. Trace regurgitation. Central jet.
Mitral Valve: Mildly thickened/myxomatous leaflets. Mild leaflet 
calcification. Partial posterior leaflet flail. No stenosis. 
Mild annular calcification. SEVERE [4+] regurgitation. 
Eccentric, anteriorly directed jet.
Pulmonic Valve: Normal leaflets. Mild regurgitation.
Tricuspid Valve: Mildly thickened leaflets. Mild annular 
calcification. Mild-moderate [___] regurgitation. Central jet.
Pericardium: Trivial effusion.

POST-OP STATE: The post-bypass TEE was performed at 12:57:00. 
Atrial paced rhythm.
Support: Vasopressor(s): epinephrine.
Left Ventricle: Systolic function is improved. Similar regional 
function. Global ejection fraction is low normal.
Right Ventricle: Improved systolic function.
Aorta: Intact. No dissection.
Aortic Valve: No change in aortic valve morphology from 
preoperative state. No change in aortic regurgitation.
Mitral Valve: The mitral valve is s/p repair. Annular ring. 
Well-seated annular ring. Post-bypass, mean mitral valve 
gradient = 1mmHg. Normal gradient for annular ring. Trace 
regurgitation.
Tricuspid Valve: No change in tricuspid valve morphology vs. 
preoperative state.
Pericardium: No effusion.
LABS:
Pathology ___:  Mitral valve, P2 leaflet, valve repair:
Myxomatous degeneration.

Admit:
___ 01:30PM BLOOD WBC-14.2* RBC-3.61* Hgb-11.1* Hct-33.9* 
MCV-94 MCH-30.7 MCHC-32.7 RDW-12.9 RDWSD-44.1 Plt ___
___ 01:30PM BLOOD ___ PTT-28.6 ___
___ 02:20PM BLOOD UreaN-17 Creat-0.9 Cl-113* HCO3-22 
AnGap-8*
___ 07:44PM BLOOD Mg-2.6

Discharge:

___ 07:05AM BLOOD WBC-8.6 RBC-3.37* Hgb-10.6* Hct-31.7* 
MCV-94 MCH-31.5 MCHC-33.4 RDW-12.8 RDWSD-44.3 Plt ___
___ 12:52AM BLOOD ___ PTT-26.4 ___
___ 07:05AM BLOOD Glucose-97 UreaN-18 Creat-1.1 Na-140 
K-4.4 Cl-101 HCO3-27 AnGap-12
___ 07:05AM BLOOD Mg-2.1
 
Brief Hospital Course:
Mr. ___ was admitted on ___ and was taken to the 
operating room. He underwent mitral valve repair with resection 
of the middle scallop of the posterior leaflet (P2) and a mitral 
valve annuloplasty with a 32 ___ annuloplasty band. 
Please see operative note for full details. He tolerated the 
procedure well and was transferred to the CVICU in stable 
condition for recovery and invasive monitoring. 
  
He weaned from sedation, awoke neurologically intact and was 
extubated on POD 1.  Beta blocker was initiated and he was 
diuresed toward his preoperative weight. He remained 
hemodynamically stable and was transferred to the telemetry 
floor for further recovery.  He was evaluated by the physical 
therapy service for assistance with strength and mobility.  He 
did not tolerate Metoprolol due to hypotension. 
By the time of discharge on POD 4 he was ambulating freely, the 
wound was healing, and pain was controlled with oral analgesics. 
He was discharged home in good condition with appropriate follow 
up instructions.
 
Medications on Admission:
1. Sumatriptan Succinate 100 mg PO DAILY:PRN migraine 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild/Fever  
2.  Aspirin EC 81 mg PO DAILY  
3.  Polyethylene Glycol 17 g PO DAILY  
4.  TraMADol ___ mg PO Q6H:PRN Pain - Moderate 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
RX *tramadol 50 mg 0.5-1.0 tablet(s) by mouth every six (6) 
hours Disp #*10 Tablet Refills:*0 
5.  Sumatriptan Succinate 100 mg PO DAILY:PRN migraine  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Mitral Valve Regurgitation, s/p mitral valve repair

Cluster Headaches
Melanoma s/p resection on thigh
Nephrolithiasis s/p lithotripsy 

 
Discharge Condition:
Alert and oriented x3, non-focal
Ambulating, gait steady
Sternal pain managed with oral analgesics
Sternal Incision - healing well, no erythema or drainage
Edema: none

 
Discharge Instructions:
1. Shower daily -wash incisions gently with mild soap, 
2. No baths or swimming, look at your incisions daily
3. NO lotion, cream, powder or ointment to incisions
4. Monitor your incision for signs of infection: fever > 101.5, 
redness, drainage or increased pain. Should you have any of 
these symptoms Please call the office immediately. ___.
5. Daily weights: keep a log. Should you have a ___ pound weight 
gain over 5 days please call for additional diuretics.
6. No driving for approximately one month and while taking 
narcotics
Clearance to drive will be discussed at follow up appointment 
with surgeon
7. No lifting more than 10 pounds for 10 weeks
8. Encourage full shoulder range of motion, unless otherwise 
specified

Fluid Restriction
Limit fluid to 1.5 Liters a day until seen

 
Followup Instructions:
___